US06103708
4-[2-(2-Benzyl-benzo[b]thiophen-3-yl)-ethyl]-phenol
The title compound was prepared according to the procedure in Example 5, step 3 using 2-benzyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzo[b]thiophene (5.50 g, 15.3 mmol) and 1M boron tribromide/CH2Cl2 (49.1 mL) in CH2Cl2. Purification on silica gel eluting with a 5 & 10% EtOAc/pet. ether step gradient gave the title compound as an oil. 1H NMR; consistent. mass spectrum (EI) m/z 344 (M+).

reactant | 2-benzyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzo[b]thiophene | 15.3 mmol, 5.50 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)CCC2=CC=C(C=C2)OC | C24H22OS
reactant | boron tribromide CH2Cl2 | 1M, 49.1 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(2-Benzyl-benzo[b]thiophen-3-yl)-ethyl]-phenol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)CCC2=CC=C(C=C2)O | C23H20OS
